US07812160B2
A solution of methyl [4,6-bis(dimethylamino)-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (5.00 g, 13.39 mmol) in methanol (150 mL) was treated with palladium on charcoal (10% Pd, 0.50 g) and the resulting black suspension was stirred under a blanket of hydrogen gas at room temperature for 10 hours. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo to give methyl [2-(4-aminobenzyl)-4,6-bis(dimethylamino)pyrimidin-5-yl]acetate (4.53 g, 98%).

reactant | methyl [4,6-bis(dimethylamino)-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 13.39 mmol, 5.00 g | CN(C1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])C | C18H23N5O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on charcoal | 0.50 g | [Pd] | Pd
product | methyl [2-(4-aminobenzyl)-4,6-bis(dimethylamino)pyrimidin-5-yl]acetate | 4.53 g, 98% | NC1=CC=C(CC2=NC(=C(C(=N2)N(C)C)CC(=O)OC)N(C)C)C=C1 | C18H25N5O2
